Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left inguinal hernia
 
Major Surgical or Invasive Procedure:
___: Open left inguinal hernia repair with plug and patch 
and left orchiectomy

 
History of Present Illness:
Mr. ___ is a ___ year old male with no significant past 
medical history who sought surgical consultation for a left 
inguinal hernia first diagnosed by his PCP ___ ___. Although the 
patient had some mild discomfort in the left groin since age ___, 
he was comfortable until recently. Over the last few weeks prior 
to presentation, he experienced increased pain in the left 
groin, exacerbated by sneezing or coughing. He denied changes in 
bowel habits or persistent pain. 
 
Past Medical History:
None

Past Surgical History:
None
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Vital Signs: T:97 HR:81 BP:141/82 RR: 19 O2%:98
General: NAD, normal development
HEENT: Pupils are equal.  Sclerae are anicteric.  Oropharynx is 
clear. 
Neck: Supple without lymphadenopathy, jugular venous
distention, bruits, thyromegaly, or nodules.  Trachea is 
midline.
Resp: Lungs are clear to auscultation bilaterally.  
CV: RRR without murmurs, rubs, or gallops.  
Abdomen: soft, nontender, and nondistended.  No organomegaly or 
masses.  
GU: Penis is uncircumsised.There is no right inguinal hernia.  
There is a large left partially reducible, nontender, inguinal 
hernia with a scrotal component. Right testicle is palpable, 
left testicle, not easily palpated due to sac. I am Extremities: 
no edema, no foot ulcers. 
Neurologic Exam: Grossly nonfocal.

 
Pertinent Results:
POSTOPERATIVE LABS:
CBC: WBC-16.7 Hgb-16.0 Hct-45.7 Plt ___
Chem:Glucose-133 UreaN-12 Creat-1.0 Na-139 K-4.3 Cl-101 HCO3-25
 
Brief Hospital Course:
Mr ___ arrived on ___ for a left inguinal hernia repair. 
During his operation, a sliding indirect hernia was identified 
with testicle as the primary component. An intraoperative 
Urology consult was requested and Dr. ___ inspected 
the hernia and sliding testicle. Due to the small risk of cancer 
associated with intra-abdominal testicles, the patient's wife 
was called during the operation to inquire about their wishes 
for orchiectomy. The patient was consented for orchiectomy prior 
to the procedure and his wife confirmed that their wish was to 
remove the testicle. Left orchiectomy was performed by the 
urologist and the remainder of the hernia repair was uneventful. 
(please see operative note for details). At the conclusion of 
the case, the patient emerged from anesthesia with difficulty 
and was bucking on the endotracheal tube for aprroximately 5 
minutes.

In the recovery room, the patient's oxygen saturation dropped to 
the high 80's on room air and progressively worsened until he 
was in need of 15L O2 by non-rebreather. A CXR at that time was 
consistent with pulmonary edema, likely from negative pressure 
generated during anesthetic emergence. The patient was put on 
CPAP with FIO2 50%, TV 500, Rate 12, PEEP 5, and given 10mg IV 
lasix. He was weaned from CPAP to 3LNC within an hour. The 
patient was admitted for overnight observation. 

On POD#1, the patient was breathing comfortably on room air with 
saturations 95-100%. He was afebrile, normotensive, pain free, 
tolerating a regular diet, and ambulating independently. He was 
discharged home that afternoon.
 
Medications on Admission:
None
 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left sliding inguinal hernia with intra-abdominal testicle 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for open repair of your left inguinal hernia 
and orchiectomy (removal of left testicle) for intra-abdominal 
testicle/sliding hernia. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*You have steri-strips, they will fall off on their own. Please 
remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___